US04204068
Ethyl 2-(6-ethoxycarbonylhexylamino)decanoate (7.4 g) was reacted with potassium cyanate and hydrochloric acid to give 1-(6-ethoxycarbonylhexyl)-5-octylhydantoin which formed colourless crystals, m.p. 68°-70° C., from light petroleum (b.p. 60°-80° C.).

reactant | Ethyl 2-(6-ethoxycarbonylhexylamino)decanoate | 7.4 g | C(C)OC(=O)CCCCCCNC(C(=O)OCC)CCCCCCCC | C21H41NO4
reactant | potassium cyanate | [O-]C#N.[K+]
reactant | hydrochloric acid | Cl | ClH
product | 1-(6-ethoxycarbonylhexyl)-5-octylhydantoin | C(C)OC(=O)CCCCCCN1C(=O)NC(=O)C1CCCCCCCC | C20H36N2O4
